US04119710
1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-tert.pentylamino-ethanol,
m.p. of the hydrochloride: 202°-204° C. (decomp.), was prepared from 4'-amino-3'-bromo-5'-cyano-2-tert.pentylaminoacetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-bromo-5'-cyano-2-tert.pentylaminoacetophenone | NC1=C(C=C(C=C1C#N)C(CNC(C)(C)CC)=O)Br | C14H18BrN3O
product | 1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-tert.pentylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC(C)(C)CC)O)Br | C14H20BrN3O
